US06726811B2
A reactor was charged with γ-butyrolactone, 2-aminoethanol and water, to produce N-(2-hydroxyethyl)-2-pyrrolidone. The molar ratio of the 2-aminoethanol/γ-butyrolactone was 1.0, and that of the γ-butyrolactone/water was 1.1. The reaction temperature was 250° C. and the reaction time was 2 hours.

reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
reactant | 2-aminoethanol | NCCO | C2H7NO
solvent | water | O | H2O
product | N-(2-hydroxyethyl)-2-pyrrolidone | OCCN1C(CCC1)=O | C6H11NO2
